US07645755B2
f) 4-Cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid [4-bromo-2-(4,4-dimethyl-cyclohex-1-enyl)-phenyl]-amide
To a suspension of 4-bromo-2-(4,4-dimethyl-cyclohex-1-enyl)-phenylamine (0.640 g, 2.29 mmol, as prepared in the previous step) and 4-cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylate potassium salt (0.700 g, 2.30 mmol, as prepared in this Example, step (d)) in DCM (12 mL) was added DIPEA (0.800 mL, 4.60 mmol) and PyBrOP (1.29 g, 2.76 mmol) and the mixture allowed to stir at RT for 10 h. The mixture was diluted with DCM (50 mL) and washed with NaHCO3 (2×50 mL) and the organic layer dried over Na2SO4 and concentrated. The title compound was eluted from a 20-g SPE with 1:1 DCM/hexane to give 1.04 g (86%) of a white solid: Mass spectrum (ESI, m/z) calcd. for C25H33BrN4O2Si, 529.1 (M+H), found 529.1.

reactant | 4-bromo-2-(4,4-dimethyl-cyclohex-1-enyl)-phenylamine | BrC1=CC(=C(C=C1)N)C1=CCC(CC1)(C)C | C14H18BrN
reactant | 4-cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylate potassium salt | [K+].C(#N)C=1N=C(N(C1)COCC[Si](C)(C)C)C(=O)[O-]
reactant | DIPEA | 4.60 mmol, 0.800 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | PyBrOP | 2.76 mmol, 1.29 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
solvent | DCM | 12 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-Cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid [4-bromo-2-(4,4-dimethyl-cyclohex-1-enyl)-phenyl]-amide | 1.04 g, 86% | BrC1=CC(=C(C=C1)NC(=O)C=1N(C=C(N1)C#N)COCC[Si](C)(C)C)C1=CCC(CC1)(C)C | C25H33BrN4O2Si
